US05654304
Sodium hydride (620 mg; 60% oil dispersion) was added in portions to benzofurazan-4-ol (1.74g) in dimethyl formamide (30 ml). The mixture was heated at 50° C. for 30 min. Epibromohydrin (1.6 ml) was added and the mixture was heated at 60° C. for 2 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic phase was washed with water, dried over Na2SO4, and evaporated. The residue was chromatographed on silica gel (50% ethyl acetate/hexane) to give 1-(4-benzofurazanyloxy)-2,3-epoxypropane (1.6 g), mp 75° C.

reactant | Sodium hydride | 620 mg | [H-].[Na+]
reactant | benzofurazan-4-ol | 1.74g | N1=C2C(=NO1)C(=CC=C2)O | C6H4N2O2
reactant | Epibromohydrin | 1.6 ml | C(Br)C1CO1 | C3H5BrO
reactant | water | O | H2O
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(4-benzofurazanyloxy)-2,3-epoxypropane | 1.6 g | N1=C2C(=NO1)C(=CC=C2)OCC2CO2 | C9H8N2O3
